US06265411B1
A solution of 5,6-dimethoxyoxindole (107 mg, 0.56 mmol), (Chem Pharm Bull. 1971, 19, 1325-1327), in a mixture of THF (1 ml) and DMF (1 ml) was added dropwise under nitrogen to a suspension of sodiumn hydride (22 mg, 0.55 mmol, prewashed with hexane) in THF (1 ml). The mixture was stirred for 20 minutes at ambient temperature and a solution of 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline (50 mg, 0.18 mmol), (prepared as described for the starting material in Example 2), in THF (1 ml) was added dropwise. The mixture was heated at 60° C. for 1.5 hours, allowed to cool and partitioned between ethyl acetate and water. The aqueous layer was adjusted to pH7 with 1M hydrochloric acid. The organic layer was washed with brine, dried (MgSO4), and volatiles removed by evaporation. The residue was purified by column flash chromatography eluting with methylene chloride/acetonitrile/methanol (60/38/2 followed by 60/35/5). The resulting solid was dissolved in methylene chloride/methanol and 3M ethereal hydrogen chloride was added. The mixture was concentrated by evaporation, the resulting precipitate was collected by filtration, washed with ether and dried under vacuum to give 4-(5,6-dimethoxyoxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline hydrochloride (33 mg, 51%).

reactant | 5,6-dimethoxyoxindole | 0.56 mmol, 107 mg | COC=1C=C2CC(NC2=CC1OC)=O | C10H11NO3
reactant | hydride | 0.55 mmol, 22 mg | [H-]
reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline | 0.18 mmol, 50 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 4-(5,6-dimethoxyoxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline hydrochloride | 33 mg, 51% | Cl.COC=1C=C2C(C(NC2=CC1OC)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCOC | InChI=1S/C22H23N3O6.ClH/c1-27-5-6-31-19-9-14-13(8-17(19)29-3)21(24-11-23-14)20-12-7-16(28-2)18(30-4)10-15(12)25-22(20)26;/h7-11,20H,5-6H2,1-4H3,(H,25,26);1H
